US05244889
Ethyl 2-oxo-1-azacyclodecane-10-carboxylate (4.0 g, 17.6 mmol) is dissolved in methylene chloride (50 mL), and cooled to 0° C. Phosphorus pentachloride (3.85 g, 18.5 mmol) and iodine (0.051 g, 0.2 mmol) are added. The reaction is stirred for 15 minutes at 0° C. Then, bromine (3.10 g, 19.4 mmol) is added, and the reaction is stirred at 0° C. for 4 hours. The reaction is quenched by adding saturated sodium sulfite (until the color of excess bromine disappears), and extracted several times with methylene chloride. The combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (15% ethyl acetate/hexane) to give cis ethyl 3-bromo-2-oxo-1-azacyclodecane-10-carboxylate, m.p. 132°-134° C.

reactant | Ethyl 2-oxo-1-azacyclodecane-10-carboxylate | 17.6 mmol, 4.0 g | O=C1NC(CCCCCCC1)C(=O)OCC | C12H21NO3
reactant | Phosphorus pentachloride | 18.5 mmol, 3.85 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | iodine | 0.2 mmol, 0.051 g | II | I2
reactant | bromine | 19.4 mmol, 3.10 g | BrBr | Br2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | cis ethyl 3-bromo-2-oxo-1-azacyclodecane-10-carboxylate | Br[C@@H]1C(N[C@@H](CCCCCC1)C(=O)OCC)=O | C12H20BrNO3
